US06638926B2
[2-(2-Chloro-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-(5-fluoro-1H-indazol-3-yl)-amine (II-215)
Prepared from 4-Chloro-2-(2-chloro-phenyl)-pyrido[2,3-d]pyrimidine (100 mg, 0.36 mmol) and 5-Fluoro-1H-indazol-3-ylamine (108 mg, 0.72 mmol). Purification by preparative HPLC afforded the title compound as a yellow, di-TFA salt (45 mg, 22% yield). HPLC-Method A, Rt 3.00 min; 1H NMR (DMSO, 500 MHz): δ13.0 (1H, s), l0.90(1H, bs), 9.15-9.05 (2H, m), 7.70 (1H, m), 7.60-7.30 (6H, m), 7.20 (1H, m); MS (m/z), MH+391.1.

reactant | 4-Chloro-2-(2-chloro-phenyl)-pyrido[2,3-d]pyrimidine | 0.36 mmol, 100 mg | ClC=1C2=C(N=C(N1)C1=C(C=CC=C1)Cl)N=CC=C2 | C13H7Cl2N3
reactant | 5-Fluoro-1H-indazol-3-ylamine | 0.72 mmol, 108 mg | FC=1C=C2C(=NNC2=CC1)N | C7H6FN3
product | [2-(2-Chloro-phenyl)-pyrido[2,3-d]pyrimidin-4-yl]-(5-fluoro-1H-indazol-3-yl)-amine | ClC1=C(C=CC=C1)C=1N=C(C2=C(N1)N=CC=C2)NC2=NNC1=CC=C(C=C21)F | C20H12ClFN6
